US09382237B2
3-((3-chlorophenyl)amino)-2-cyano-3-(methylthio)acrylamide (6.00 g) was suspended in 100 mL of ethanol and hydrazine hydrate (1.478 mL, 1.5 eq.) was added drop wise to the reaction. Reaction was then heated at 75° C. until the starting material was no longer present and confirmed via HPLC. Once starting material was absent (18 hrs), reaction was brought to room temperature and filtered to obtain 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide as an off white to yellow powder. Product was allowed to dry under vacuum for 1 hr (4.40 g, 83% yield).

reactant | 3-((3-chlorophenyl)amino)-2-cyano-3-(methylthio)acrylamide | 6.00 g | ClC=1C=C(C=CC1)NC(=C(C(=O)N)C#N)SC | C11H10ClN3OS
reactant | hydrazine hydrate | 1.478 mL, 1.5 eq. | O.NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide | 83% yield | NC1=C(C(=NN1)NC1=CC(=CC=C1)Cl)C(=O)N | C10H10ClN5O
